US04963564
N-[6-[3-[3-(Phenylmethoxy)-2-pyridinyl]propoxy]hexyl]benzene methanamine
2-[3-[(6-Bromohexyl)oxy]propyl]-3-(phenylmethoxy)pyridine (1.0 g) was added to benzylamine (3 ml) at 120° under nitrogen. After stirring for 2 h, the solution was cooled and added to water (10 ml) and 2N hydrochloric acid (10 ml). The aqueous mixture was basified with sodium carbonate and then extracted with ethyl acetate (3×50 ml). The ethyl acetate was evaporated and the excess benzylamine was removed by distillation at reduced pressure to leave the title compound as a red oil (810 mg), t.l.c. (ethyl acetate/triethylamine 99:1) Rf 0.13.

reactant | 2-[3-[(6-Bromohexyl)oxy]propyl]-3-(phenylmethoxy)pyridine | 1.0 g | BrCCCCCCOCCCC1=NC=CC=C1OCC1=CC=CC=C1 | C21H28BrNO2
reactant | benzylamine | 3 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 ml | O | H2O
product | N-[6-[3-[3-(Phenylmethoxy)-2-pyridinyl]propoxy]hexyl]benzene methanamine | 810 mg | C1(=CC=CC=C1)COC=1C(=NC=CC1)CCCOCCCCCCNCC1=CC=CC=C1 | C28H36N2O2
